US07098226B2
cis-1-[2-(1-Adamantyl)ethyl]-1-pentyl-3-[2-(4-pyridyl)cyclopropylmethyl]urea (Compound No. 15-1)
A 1.0 M solution of diethylzinc in hexane (3.1 ml, 3.1 mmol) and chloroiodomethane (0.44 ml, 6.1 mol) were added to a solution of (Z)-1-[2-(1-adamantyl)ethyl]-1-pentyl-3-[3-(4-pyridyl)-2-propenyl]urea (Compound No. 1-111) in anhydrous 1,2-dichloroethane (3 ml) under a nitrogen atmosphere and ice-cooling, and the mixture was stirred for one hour. A saturated aqueous ammonium chloride solution (10 ml) was added to the reaction mixture under ice-cooling, and the whole was stirred at room temperature for 20 minutes and distributed with ethyl acetate (20 ml) and a saturated aqueous ammonium chloride solution (10 ml). The organic layer was washed with a saturated aqueous sodium chloride solution (10 ml) and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the resulting residue was purified by silica gel column chromatography to give 9.0 mg (3.5%) of the titled compound as colorless crystals.

reactant | diethylzinc | C(C)[Zn]CC
reactant | hexane | 3.1 mmol, 3.1 ml | CCCCCC | C6H14
reactant | chloroiodomethane | 6.1 mol, 0.44 ml | ClCI | CH2ClI
reactant | (Z)-1-[2-(1-adamantyl)ethyl]-1-pentyl-3-[3-(4-pyridyl)-2-propenyl]urea | C12(CC3CC(CC(C1)C3)C2)CCN(C(=O)NC\C=C/C2=CC=NC=C2)CCCCC | C26H39N3O
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | 1,2-dichloroethane | 3 ml | ClCCCl | C2H4Cl2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | cis-1-[2-(1-Adamantyl)ethyl]-1-pentyl-3-[2-(4-pyridyl)cyclopropylmethyl]urea | 9.0 mg, 3.5% | C12(CC3CC(CC(C1)C3)C2)CCN(C(=O)NC[C@H]2[C@H](C2)C2=CC=NC=C2)CCCCC | C27H41N3O
